US08383827B2
Step 2: Synthesis of 6-bromo-2-naphthonitrile
To 6-bromo-2-naphthamide (1 g, 4.00 mmol) in dioxane (8.00 ml) at 0° C. was added pyridine (0.647 ml, 8.00 mmol) and then TFAA (0.621 ml, 4.40 mmol) dropwise. The reaction was stirred at room temperature for 3 h. The mixture was quenched with H2O and extracted with EtOAc two times, dried over magnesium sulfate, filtered, concentrated. The title compound (653 mg, 70%) was isolated as a beige solid, and used as is for the next step.

reactant | 6-bromo-2-naphthamide | 4.00 mmol, 1 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)N | C11H8BrNO
reactant | pyridine | 8.00 mmol, 0.647 ml | N1=CC=CC=C1 | C5H5N
reactant | TFAA | 4.40 mmol, 0.621 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | dioxane | 8.00 ml | O1CCOCC1 | C4H8O2
product | 6-bromo-2-naphthonitrile | 653 mg, 70% | BrC=1C=C2C=CC(=CC2=CC1)C#N | C11H6BrN
